US06852732B2
Synthesis of 8-(2,4-dichlorophenyl)-4-(4-isopropyloxycarbonyl-1,2,3,6-tetrahydropyridin-1-yl)-2-methylquinoline (Compound 1-14)
Under a nitrogen atmosphere, 8-bromo-4-(4-isopropyloxycarbonyl-1,2,3,6-tetrahydropyridin-1-yl)-2-methylquinoline (5.9 g), 2,4-dichlorophenylboric acid (3.2 q) and sodium carbonate (4.8 g) were suspended in a mixed solvent of deaerated water (15 mL), toluene (7.5 mL) and ethanol (7.5 mL), followed by adding thereto tetrakis(triphenylphosphine)palladium (0.88 g), and the resulting mixture was heated under reflux for 5 hours. The reaction mixture was cooled to room temperature to be separated. After the aqueous phase was extracted with ethyl acetate, the combined organic phase was dried over anhydrous sodium sulfate. The desiccating agent was filtered off, after which the filtrate was concentrated under reduced pressure and the resultant residue was crystallized from diisopropyl ether. The crystals were collected by filtration and washed with a small amount of diisopropyl ether to obtain the title compound (5.3 g).

reactant | 8-bromo-4-(4-isopropyloxycarbonyl-1,2,3,6-tetrahydropyridin-1-yl)-2-methylquinoline | 5.9 g | BrC=1C=CC=C2C(=CC(=NC12)C)N1CCC(=CC1)C(=O)OC(C)C | C19H21BrN2O2
reactant | 2,4-dichlorophenylboric acid | ClC1=C(C=CC(=C1)Cl)OB(O)O | C6H5BCl2O3
reactant | sodium carbonate | 4.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 15 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.88 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 7.5 mL | C(C)O | C2H6O
solvent | toluene | 7.5 mL | C1(=CC=CC=C1)C | C7H8
product | 8-(2,4-dichlorophenyl)-4-(4-isopropyloxycarbonyl-1,2,3,6-tetrahydropyridin-1-yl)-2-methylquinoline | 5.3 g | ClC1=C(C=CC(=C1)Cl)C=1C=CC=C2C(=CC(=NC12)C)N1CCC(=CC1)C(=O)OC(C)C | C25H24Cl2N2O2
